US07935830B2
Step B. N-Ethylcarbamate-5-ethoxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole
Bromoethane (17 mL, 0.23 mmol) and K2CO3 (105 mg, 0.75 mmol) were added to a solution of N-ethylcarbamate-5-hydroxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole (44 mg, 0.15 mmol) in CH3CN (1.5 mL). The reaction was stirred overnight at 70° C., diluted with H2O and CH2Cl2, and filtered through an Extrelut column. The column was washed with CH2Cl2 and the filtrate was concentrated. The crude product was obtained without further purification. MS calculated for C17H22ClNO3+H: 324, observed: 324.

reactant | Bromoethane | 0.23 mmol, 17 mL | BrCC | C2H5Br
reactant | K2CO3 | 0.75 mmol, 105 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | N-ethylcarbamate 5-hydroxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | 0.15 mmol, 44 mg | C(C)NC([O-])=O.OC=1C(=CC=2C(C3C(CNC3)C2C1)C)Cl
solvent | CH3CN | 1.5 mL | CC#N | C2H3N
solvent | H2O | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Ethylcarbamate 5-ethoxy-6-chloro-8-methyl-1,2,3,3a,8,8a-hexahydroindeno[1,2-c]pyrrole | C(C)NC([O-])=O.C(C)OC=1C(=CC=2C(C3C(CNC3)C2C1)C)Cl | InChI=1S/C14H18ClNO.C3H7NO2/c1-3-17-14-5-10-9(4-13(14)15)8(2)11-6-16-7-12(10)11;1-2-4-3(5)6/h4-5,8,11-12,16H,3,6-7H2,1-2H3;4H,2H2,1H3,(H,5,6)/p-1
